US07696374B2
4-Methylphenyl 2-(1,1′-biphenyl-4-yl)ethylcarbamate
The procedure is carried out in a manner similar to Example 4, replacing the 4-phenylbenzylamine with 2-(4-biphenyl)ethylamine and the 4-fluorophenyl chloroformate with 4-methylphenyl chloroformate.

reactant | 2-(4-biphenyl)ethylamine | C1=CC=C(C=C1)C2=CC=C(C=C2)CCN | C14H15N
reactant | 4-fluorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | 4-methylphenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C | C8H7ClO2
product | 4-Methylphenyl 2-(1,1′-biphenyl-4-yl)ethylcarbamate | C1(=CC=C(C=C1)CCNC(OC1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C22H21NO2
